US04532343
A mixture of 30 g (0.20 mol) of 3-hydroxy-4-methylbenzoic acid, 68.1 g (0.49 mol) of K2CO3, and 123 mL (1.98 mol) of MeI in 250 mL of DMF was heated at reflux for 19 h. After cooling to room temperature, the reaction mixture was diluted with 500 mL of water and extracted with Et2O (2×300 mL). The organic phase was washed with water and brine, dried (MgSO4), and concentrated to 37 g of orange oil: TLC (5% Et2O/hexane) Rf 0.13 (3-hydroxy-4-methylbenzoic acid), 0.63 (methyl 3-methoxy-4-methylbenzoate), and 0.72. The oil was chromatographed on 450 g of silica gel with 5% Et2O/hexane (100-mL fractions) to give 19.5 g of methyl 3-methoxy-4-methylbenzoate and 6.6 g of methyl 3-methoxy-4-methylbenzoate contaminated with the higher Rf material. The impure fraction was chromatographed on 250 g of silica gel to afford an additional 5.6 g of product. The total yield of white crystalline solid, mp 50°-51° C., was 25.1 g (72%). A sample from an earlier experiment was characterized: IR (film) 1700, 1400, 1290, 1270, 1100 cm-1 ; 1H NMR (CDCl3) δ 2.25 (s, 3, ArCH3), 3.85 and 3.88 (2 s, 6, CO2CH3ArOCH3), 7.2-7.9 (m, 3, ArH); MS calcd for C10H12O3 180.0786, found 180.0779.

reactant | 3-hydroxy-4-methylbenzoic acid | 0.20 mol, 30 g | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | K2CO3 | 0.49 mol, 68.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 1.98 mol, 123 mL | CI | CH3I
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | methyl 3-methoxy-4-methylbenzoate | 6.6 g | COC=1C=C(C(=O)OC)C=CC1C | C10H12O3
